US05230826
A solution of 2.96 g of crude [trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]methanol in 20 ml of dry pyridine is treated at 0° C. with 2.1 g of p-toluenesulfonyl chloride. The mixture is stirred at room temperature for 15 hours, then diluted with 200 ml methylene chloride and washed several times with water. The organic phase is fried over magnesium sulfate, filtered and evaporated. Chromatographic purification of the resulting crude product on silica gel with ethyl acetate/petroleum ether (vol. 1:9) gives [trans-4-]trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]methyl p-toluenesulfonate.

reactant | [trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]methanol | 2.96 g | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CO | C18H32O3
reactant | p-toluenesulfonyl chloride | 2.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
